US04923865
Methyl 3-(2-chloro-2-propenyl)-2-hydroxybenzoate. 274.1 g (1.21 mole) of methyl 2-(2-chloro-2-propenyloxy)-benzoate, placed in a 2 liter round-bottomed flask, are carefully degassed with argon. This is then heated as rapidly as possible to 260° C. At this temperature, an exothermic reaction takes place suddenly: the temperature increases to 293° C. by itself and reflux and blackening of the reaction mixture takes place. After cooling to ambient temperature, the product is distilled under reduced pressure. 241.1 g of ethyl 3-(2-chloro-2-propenyl)-2-hydroxybenzoate are obtained.

reactant | Methyl 3-(2-chloro-2-propenyl)-2-hydroxybenzoate | ClC(CC=1C(=C(C(=O)OC)C=CC1)O)=C | C11H11ClO3
reactant | methyl 2-(2-chloro-2-propenyloxy)-benzoate | 1.21 mole, 274.1 g | ClC(COC1=C(C(=O)OC)C=CC=C1)=C | C11H11ClO3
product | ethyl 3-(2-chloro-2-propenyl)-2-hydroxybenzoate | 241.1 g, Yield: 88% | ClC(CC=1C(=C(C(=O)OCC)C=CC1)O)=C | C12H13ClO3
